Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMHx CAD, atrial flutter, dementia transported to ___ my 
EMS after being found in the lobby of her building stating that 
there was a bear in her apartment.  She denied other physical 
complaints at that time but did need to be restrained to be 
taken out of her apartment.  Per family, the pt's behavior is 
far off of her baseline.

In the ED, VS were 96.7, 98, 167/102, 20, 94% RA.  The pt had 
unremarkable labs, a noncontrast head CT showing no acute 
intracranial process and chronic lacunar infarcts, and a chest 
xray showing no acute cardiopulmonary process.  ECG showed 
atrial fibrillation with a HR of 78.  She was seen by psychiatry 
in the ED and was found to be delirious.  The pt was given 
ASA81, amlodipine 5 mg, and metoprolol tartrate 50 mg in the ED. 
 She also received IM haloperidol 1 mg for agitation.

Of note, her son related that he did not believe the pt required 
hospitalization when speaking with the psychiatry consult team.  
He reiterated this feeling when speaking with the medical team.  
He believes that she should never have been taken to the 
hospital for taking a walk at 2 AM in her facility and seeming 
"a little bit off."  He thinks that she may have "had a bad 
dream" or had "cabin fever."  He did not wish to provide a 
medication list for the patient and stated that he would 
administer his mother's medications when he was able to pick her 
up from the hospital tomorrow.  He did confirm that the pt is 
Full Code.
 
On the floor, the pt remains delirious but is calm and 
cooperative.  She says that "I am totally fine.  Everything is 
great."  She denies pain, discomfort, SOB, CP, difficulty 
breathing, pain on urination, diarrhea, and leg swelling.  When 
asked about the bear she saw, she initially did not wish to 
discuss.  Then she said she "thought she saw him."  She was 
suspicious of the intentions of those around her.  She also 
asked about why the "ceiling is so broken up" and "heavy."  She 
later remarked that "the ceiling is quite magnificent, 
actually."
 
Past Medical History:
 ·  CAD/s/p CABG ___ 
 ·  Htn  
 ·  Hyperlipidemia 
 ·  Cervical spondylosis w/myelopathy 
 ·  MCI 
 ·  Postconcussion syndrome 
 ·  Anxiety and depression 
 ·  Occipital neuralgia 
 ·  IBS 
 ·  H/o hyponatremia 
 ·  Bilateral cataracts ___  
 ·  Left oopharectomy ___ 
 ·  Labs ___ hb 13.5 wbc 6, plt 185 
 ·  Fibroids diagnosed ___ (note- per cardiologist, mention of 
iliac anuerysm typo as he did not see it on imaging) 
 ·  MOCA ___ - ___ 
 ·  PNA ___ 
 ·  aflutter new diag ___ diag during PNA with ___ and 
echo then mostly normal (mild diastolic dysfunc) 
 ·  Pos stress test with reversible region ___ ___ 
for med management 
  ·  echo end ___ new decrease EF to 30% w/ global 
hypokineses, CHF admit mild exacerbation ___ end ___ 
 ·  MOCA ASSESSMENT ___.5 /___ - ___ - SIGNIFICANT DECLINE IN 
COGNITIVE FUNCTION. 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission Physical Examination:
VS:  97.7 (axillary) 71 139/83 17 93% RA
Gen:  NAD, interactive, calm in restraints
HEENT:  JVP 7 cm H2O, lips and tongue dry
CV:  RRR, S1 and S2, no m/r/g
Pulm:  CTAB anteriorly, moderate respiratory effort
Abd:  BS+, soft, NT, ND
Ext:  No ___ edema
Skin:  Generalized xerosis with scattered seborrheic keratosis.  
No concerning eruptions identified.
Neuro:  A&O to person, not place, day, date day vs night, year.  
She moves all extremities and has no obvious neurological 
deficit
Psych: affect appropriate, speech fluent, linear, but often not 
making sense  

Discharge Physical Examination:
VS:  97.7 (Ax) 70 139/83 17 93% RA
Weight: 56.6 kg (___)
GENERAL: NAD, anxious appearing, sitting up in bed.
HEENT: No JVD
LUNGS: Clear to auscultation bilaterally, otherwise no w/r/r  
HEART: RRR, S1 and S2, no m/r/g 
ABDOMEN: BS+, soft, NT, ND  
EXTREMITIES: No ___ edema 
NEURO: awake, A&O to person only, pt making nonsensical 
comments.
 
Pertinent Results:
==Admission Labs==
___ 03:20AM BLOOD WBC-8.8 RBC-4.68 Hgb-14.4 Hct-43.6 MCV-93 
MCH-30.8 MCHC-33.0 RDW-14.9 RDWSD-50.7* Plt ___
___ 03:20AM BLOOD Neuts-73.0* Lymphs-14.2* Monos-9.7 
Eos-2.0 Baso-0.6 Im ___ AbsNeut-6.45* AbsLymp-1.25 
AbsMono-0.86* AbsEos-0.18 AbsBaso-0.05

___ 03:20AM BLOOD ___ PTT-45.5* ___

___ 03:20AM BLOOD Glucose-145* UreaN-16 Creat-0.8 Na-142 
K-3.6 Cl-105 HCO3-24 AnGap-17

==Other Results==
___ 03:20AM BLOOD cTropnT-<0.01

___ 03:20AM BLOOD VitB12-729
___ 03:20AM BLOOD TSH-4.5*
___ 03:20AM BLOOD Cortsol-35.1*
___ 03:20AM BLOOD Digoxin-0.3*

___ 08:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 03:20AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

___ 08:13AM BLOOD Lactate-2.6*

___ 06:12AM URINE Color-Yellow Appear-Clear Sp ___
___ 06:12AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:12AM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 06:12AM URINE CastHy-3*

==Imaging/Studies==
___ Non-Contrast Head CT
1. No acute intracranial hemorrhage.  No acute intracranial 
abnormality on noncontrast head CT. 
2.  Chronic lacunar infarcts in the bilateral basal ganglia and 
small chronic infarct in the left cerebellum. 
3.  If there no contraindications and there is clinical concern, 
MRI would be more sensitive for subtle infarcts. 

___ Chest X-Ray
No acute cardiopulmonary process.

___ ECG
78, atrial fibrillation, no new ST-T changes,  QTc 495, similar 
to prior

==Discharge Labs==
___ 08:00AM BLOOD WBC-8.4 RBC-4.90 Hgb-15.4 Hct-46.5* 
MCV-95 MCH-31.4 MCHC-33.1 RDW-15.1 RDWSD-52.5* Plt ___
___ 08:00AM BLOOD ___ PTT-44.1* ___
___ 08:00AM BLOOD Glucose-122* UreaN-13 Creat-0.8 Na-142 
K-3.8 Cl-102 HCO3-30 AnGap-14
___ 08:00AM BLOOD Calcium-10.7* Phos-2.6* Mg-2.3
 
Brief Hospital Course:
Ms. ___ is an ___ female with a history of dementia, 
atrial flutter, hypertension, and diastolic heart failure who 
presented to the hospital after being found wandering in her 
living facility. EMS was activated and transported the patient 
to ___ where she was admitted for work up. Her work up was 
unrevealing and she is now being discharged back to her 
facility. In the future, her son and HCP, ___ (___) 
would like to be called before she is transported to the 
hospital to discuss the need for hospital evaluation.

# Dementia with Acute Behavioral Disturbance/Metabolic 
Encephalopathy: Pt transported to ___ after being found 
wandering at her facility.  She endorsed seeing a bear and there 
was concern that she was encephalopathic from an underlying 
medical condition.  She was transported to ___ and had a 
negative work up.  She is now being discharged back to her 
facility.  Dr. ___ primary care physician, was 
updated by the geriatrics team and the pt will follow up with 
Dr. ___.  Of note, pt's son and HCP (___) was not 
happy that the pt was transported to the hospital.  In the 
future, he would like to be called prior to transport to the 
hospital to discuss whether he feels that pt requires hospital 
evaluation (___).

# Social Concerns: There were concerns regarding the pt's social 
situation and her relationship with her son and HCP.  These 
concerns were shared by her facility and her primary care 
physician was aware of this issue.  Dr. ___ will 
continue to follow the pt as will SW at her facility.

# Atrial Flutter: INR 3.3 on admission and 2.9 on discharge.  
The pt's warfarin was held.  she continued on her metoprolol and 
digoxin (digoxin level 0.3).

# CAD: Continue ASA81, pravastatin

# HTN: Continue amlodipine and metoprolol

Transitional Issues:
-Pt requires follow up with Dr. ___ ___
-Dr. ___ is aware of admission and has been in touch 
with the Geriatrics Team
-Son/HCP ___ would like to be called before pt transported to 
hospital in the future ___
-Code: Full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QFRI 
2. Digoxin 0.125 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Metoprolol Succinate XL 125 mg PO DAILY 
5. Potassium Chloride 20 mEq PO DAILY 
6. Pravastatin 20 mg PO QPM 
7. Warfarin 6 mg PO 2X/WEEK (___) 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
9. Calcium Carbonate 500 mg PO BID 
10. Vitamin D 1000 UNIT PO DAILY 
11. Warfarin 7 mg PO 5X/WEEK (___) 

 
Discharge Medications:
1. Alendronate Sodium 70 mg PO QFRI 
2. Metoprolol Succinate XL 125 mg PO DAILY 
3. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
4. Pravastatin 20 mg PO QPM 
5. Vitamin D 1000 UNIT PO DAILY 
6. Furosemide 20 mg PO DAILY 
7. Calcium Carbonate 500 mg PO BID 
8. Digoxin 0.125 mg PO DAILY 
9. Warfarin 6 mg PO 2X/WEEK (___) 
10. Warfarin 7 mg PO 5X/WEEK (___) 
11. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Dementia with Acute Behavioral Disturbance
Acute metabolic encephalopathy

Secondary Diagnoses:
Atrial Flutter
Hypertension
Coronary Artery Disease
Chronic Diastolic Heart Failure
Osteoporosis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.  You were admitted to 
the hospital after you were seen walking around your facility at 
night.  You were evaluated and appear to be in your usual state 
of health.  Please be sure to follow up with Dr. ___ on 
___.  In the future, your son ___ would like to be 
spoken to before you are taken to the hospital for evaluation 
(___).  Thank you for allowing us to participate in 
your care.

Sincerely,

Your ___ Team
 
Followup Instructions:
___